US07723366B2
1-methylethyl 2-mercapto-1,3-benzothiazol-6-yl(2-methylpropyl)carbamate
Into a 50 ml round bottomed flask were added 6-[(2-methylpropyl)amino]-1,3-benzothiazole-2-thiol (100 mg, 0.42 mmol), acetone (10 ml), N,N-diisopropylethylamine (54.2 mg, 0.42 mmol) and isopropyl chloroformate (51.5 mg, 0.42 mmol). The reaction mixture was stirred for 10 h, filtered, and the solid that was obtained was triturated with diethyl ether to afford 30 mg (59%) of the title compound. 1H NMR (DMSO-d6) δ=0.80 (d, 6H), 1.11 (d, 6H), 1.60 (m, 1H), 3.43 (d, 2H), 4.76 (m, 1H), 7.24 (br s, 2H), 7.60 (s, 1H); ESIMS: m/z 323 (M−H).

reactant | 6-[(2-methylpropyl)amino]-1,3-benzothiazole-2-thiol | 0.42 mmol, 100 mg | CC(CNC1=CC2=C(N=C(S2)S)C=C1)C | C11H14N2S2
reactant | N,N-diisopropylethylamine | 0.42 mmol, 54.2 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isopropyl chloroformate | 0.42 mmol, 51.5 mg | ClC(=O)OC(C)C | C4H7ClO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-methylethyl 2-mercapto-1,3-benzothiazol-6-yl(2-methylpropyl)carbamate | 30 mg, 59% | SC=1SC2=C(N1)C=CC(=C2)N(C(OC(C)C)=O)CC(C)C | C15H20N2O2S2
